US08349865B2
Step 1: 9-Bromo-5-((2,6-dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one
To a slurry of NaH (252 mg, 6.29 mmol) in THF (20 ml) was added 9-bromo-5-[(2,6-dichloro-4-fluorophenyl)amino]benzo[c]-2,6-naphthyridin-1(2H)-one (950 mg, 2.097 mmol) and the mixture was stirred for 5 min. [2-(Chloromethoxy)ethyl](trimethyl)silane (1.116 ml, 6.29 mmol) was added and the mixture was stirred at room temperature overnight. The solution was quenched with MeOH and concentrated under reduced pressure. The residue was purified by flash chromatography (0-30% ethyl acetate in hexanes) to afford the title compound.

reactant | NaH | 6.29 mmol, 252 mg | [H-].[Na+]
reactant | 9-bromo-5-[(2,6-dichloro-4-fluorophenyl)amino]benzo[c]-2,6-naphthyridin-1(2H)-one | 2.097 mmol, 950 mg | BrC1=CC2=C(N=C(C=3C=CNC(C23)=O)NC2=C(C=C(C=C2Cl)F)Cl)C=C1 | C18H9BrCl2FN3O
reactant | [2-(Chloromethoxy)ethyl](trimethyl)silane | 6.29 mmol, 1.116 ml | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 9-Bromo-5-((2,6-dichloro-4-fluorophenyl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-{[2-(trimethylsilyl)ethoxy]methyl}benzo[c]-2,6-naphthyridin-1(2H)-one | BrC1=CC2=C(N=C(C=3C=CN(C(C23)=O)COCC[Si](C)(C)C)N(COCC[Si](C)(C)C)C2=C(C=C(C=C2Cl)F)Cl)C=C1 | C30H37BrCl2FN3O3Si2
